US07960369B2
4-phenyl-N-propyl-1,3-thiazol-2-amine
To a solution of 2-chloroacetophenone (4.45 g, 28.8 mmol) and N-propylthiourea (3.40 g, 28.8 mmol) in ethanol (50 mL) was added sodium acetate (3.07 g, 37.4 mmol), and the mixture was heated under reflux for 1.5 hrs. Water was added to the reaction mixture, and crystals were collected by filtration. The obtained crude crystals were recrystallized from diethyl ether-hexane to give the title compound (5.64 g, 92%) as colorless crystals.

reactant | 2-chloroacetophenone | 28.8 mmol, 4.45 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | N-propylthiourea | 28.8 mmol, 3.40 g | C(CC)NC(=S)N | C4H10N2S
reactant | sodium acetate | 37.4 mmol, 3.07 g | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-phenyl-N-propyl-1,3-thiazol-2-amine | 5.64 g, 92% | C1(=CC=CC=C1)C=1N=C(SC1)NCCC | C12H14N2S
